US06130187
Preparation of 3-(2,4-difluoro-6-hydroxyphenyl)-1-methyl-6-trifluoromethyluracil
13.6 g (40 mmol) of 3-(2,4-difluoro-6-methoxyphenyl)-1-methyl-6-trifluoromethyluracil was dissolved in 150 ml of dichloromethane, and 66.7 ml (200 mmol) of boron tribromide (3.0M dichloromethane solution) was dropwise added thereto at 0° C. After stirring at room temperature for 3 hours, the reaction solution was poured into ice water and neutralized with sodium hydrogencarbonate. It was extracted with dichloromethane. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained crude crystals were washed with isopropyl ether to obtain 9.8 g (yield: 75.4%) of the desired product as white crystals. Melting point: 195-196° C.

reactant | 3-(2,4-difluoro-6-methoxyphenyl)-1-methyl-6-trifluoromethyluracil | 40 mmol, 13.6 g | FC1=C(C(=CC(=C1)F)OC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H9F5N2O3
reactant | boron tribromide | 200 mmol, 3.0M, 66.7 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-(2,4-difluoro-6-hydroxyphenyl)-1-methyl-6-trifluoromethyluracil | 9.8 g, yield: 75.4% | FC1=C(C(=CC(=C1)F)O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C12H7F5N2O3
